US08664288B2
1,3-dicyclohexyl-O—(N-cyclododecanylideneamino)-isourea (Cmpd. 9)
A mixture of cyclododecanone oxime (19.73 g, 100 mmol), dicyclohexylcarbodiimide (20.63 g, 100 mmol) and potassium-t-butylate (0.12 g) in hexane (75 ml) is stirred 23 h at 50° C. under argon. The mixture is then allowed to crystallize overnight at −18° C. The solid is filtered off and recrystallized from dichloromethane-hexane to afford 17.4 g of the title compound as white solid, mp. 108-111° C.

reactant | cyclododecanone oxime | 100 mmol, 19.73 g | C1(CCCCCCCCCCC1)=NO | C12H23NO
reactant | dicyclohexylcarbodiimide | 100 mmol, 20.63 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | hexane | 75 ml | CCCCCC | C6H14
product | 1,3-dicyclohexyl-O—(N-cyclododecanylideneamino)-isourea | 17.4 g | C1(CCCCC1)NC(ON=C1CCCCCCCCCCC1)=NC1CCCCC1 | C25H45N3O
